US07309718B2
(b) 2-[2-(4-Methoxyphenyl)ethyl]benzoic acid
To 280 ml of an ethanol solution containing 20.0 g (79.3 mmol) of 3-(4-methoxybenzylidene)phthalide were added 16.6 ml (119 mmol) of triethylamine and Raney nickel (available from Kawaken Finechemical, developed nickel catalyst NTD-65, 24 ml), and the resulting mixture was stirred at 80° C. for 2.5 hours under pressure with hydrogen (10 atm).

reactant | 3-(4-methoxybenzylidene)phthalide | 79.3 mmol, 20.0 g | COC1=CC=C(C=C2OC(=O)C3=CC=CC=C23)C=C1 | C16H12O3
reactant | triethylamine | 119 mmol, 16.6 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 24 ml | [Ni] | Ni
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 2-[2-(4-Methoxyphenyl)ethyl]benzoic acid | COC1=CC=C(C=C1)CCC1=C(C(=O)O)C=CC=C1 | C16H16O3
